US08957093B2
(S)-1-((2′-(N-acetylsulfamoyl)-[1,1′-biphenyl]-4-yl)methyl)-N-(1-(3-isopropylphenyl)ethyl)-2,3-dimethyl-1H-indole-5-carboxamide
To the mixture of (S)—N-(1-(3-isopropylphenyl)ethyl)-2,3-dimethyl-1-((2′-sulfamoyl-[1,1′-biphenyl]-4-yl)methyl)-1H-indole-5-carboxamide (0.058 g, 0.1 mmol) and TEA (0.03 mL, 0.2 mmol) in DCM (0.5 mL) was slowly added acetyl chloride (0.009 g, 0.11 mmol). The mixture was stirred at room temperature for 1 h.

reactant | (S)—N-(1-(3-isopropylphenyl)ethyl)-2,3-dimethyl-1-((2′-sulfamoyl-[1,1′-biphenyl]-4-yl)methyl)-1H-indole-5-carboxamide | 0.1 mmol, 0.058 g | C(C)(C)C=1C=C(C=CC1)[C@H](C)NC(=O)C=1C=C2C(=C(N(C2=CC1)CC1=CC=C(C=C1)C1=C(C=CC=C1)S(N)(=O)=O)C)C | C35H37N3O3S
reactant | acetyl chloride | 0.11 mmol, 0.009 g | C(C)(=O)Cl | C2H3ClO
solvent | DCM | 0.5 mL | C(Cl)Cl | CH2Cl2
product | (S)-1-((2′-(N-acetylsulfamoyl)-[1,1′-biphenyl]-4-yl)methyl)-N-(1-(3-isopropylphenyl)ethyl)-2,3-dimethyl-1H-indole-5-carboxamide | C(C)(=O)NS(=O)(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=C(C2=CC(=CC=C12)C(=O)N[C@@H](C)C1=CC(=CC=C1)C(C)C)C)C | C37H39N3O4S
